US04185992
4,5-Dicyanoimidazole (93 g, described by Woodward, U.S. Pat. No. 2534331 (1950)) was dissolved in dry dimethylformamide (500 ml) with stirring. Sodium hydride (20 g) was added to the solution in portions at such a rate that the temperature after the addition was 90° C. When effervescence had ceased the solution was heated on a steam bath for 15 minutes and then allowed to cool to 60° C. 3,4-Dichlorobenzyl chloride (230 g, described by Beilstein & Kuhlberg, Ann., 146, 326 (1867)) was added over 30 minutes to the solution, which was heated on a steam bath for 6 hours and then at 150° C. for 10 minutes. The cooled reaction mixture was poured into water (2 liters) and a brown solid was filtered off and washed with water. The damp solid was recrystallised from ethanol (1 liter) to give 1-(3,4-dichlorobenzyl)-4,5-dicyanoimidazole, m.p. 132°-134° C., (114 g) as off-white crystals.

reactant | 4,5-Dicyanoimidazole | C(#N)C=1N=CNC1C#N | C5H2N4
reactant | Sodium hydride | 20 g | [H-].[Na+]
reactant | 3,4-Dichlorobenzyl chloride | 230 g | ClC=1C=C(CCl)C=CC1Cl | C7H5Cl3
reactant | water | 2 liters | O | H2O
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | 1-(3,4-dichlorobenzyl)-4,5-dicyanoimidazole | ClC=1C=C(CN2C=NC(=C2C#N)C#N)C=CC1Cl | C12H6Cl2N4
